US04746654
Tetraethyl (N,N-diethylthiocarbamylthio)-methylenediphosphonate (SR 41905)
The procedure of Example 3 is followed starting from tetraethyl methylene-diphosphonate and bis-(diethyl-thiocarbamyl)-disulfide. In the same manner as that described, an oil is obtained which has an Rf of 0.5 when chromatographed on a thin layer of silica (using an 8:2 (volume/volume) mixture of ethyl acetate/ethanol).

reactant | tetraethyl methylene-diphosphonate | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | bis-(diethyl-thiocarbamyl)-disulfide | C(C)N(C(=S)SSC(N(CC)CC)=S)CC | C10H20N2S4
product | Tetraethyl (N,N-diethylthiocarbamylthio)-methylenediphosphonate | C(C)N(C(=S)SC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)CC | C14H31NO6P2S2
